US08114894B2
tert-Butyl 2-(4-(2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamido)piperidin-1-yl)ethylcarbamate
The title compound was prepared according to general procedure C described in Scheme 2. 2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(piperidin-4-yl)acetamide hydrochloride (200 mg, 0.64 mmol) was treated with acetonitrile (3 mL), K2CO3 (265 mg, 1.91 mmol), and tert-butyl 2-bromoethylcarbamate (266 mg, 1.28 mmol). The reaction mixture was stirred at 65° C. for 72 h and was then concentrated under reduced pressure. The crude material was purified by silica chromatography (Biotage, 0-5% MeOH/DCM, 30 min.) to provide the title compound as a brown oil. The material was further purified using reverse phase HPLC to provide the desired product as a pink solid TFA salt (132 mg, 45%).

reactant | 2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(piperidin-4-yl)acetamide hydrochloride | 0.64 mmol, 200 mg | Cl.C(C)(C)N1C=C(C2=CC=CC=C12)C(C(=O)NC1CCNCC1)=O
reactant | K2CO3 | 1.91 mmol, 265 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoethylcarbamate | 1.28 mmol, 266 mg | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | tert-Butyl 2-(4-(2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamido)piperidin-1-yl)ethylcarbamate | C(C)(C)N1C=C(C2=CC=CC=C12)C(C(=O)NC1CCN(CC1)CCNC(OC(C)(C)C)=O)=O | C25H36N4O4
